US07056916B2
(c) 6-benzyloxy-8-{2-[2-(3,5-dimethylphenyl)-1,1-dimethylethylamino]-1-hydroxyethyl}-4H-benzo[1,4]oxazin-3-one
Prepared analogously to the method for Example 8(d) from 1.47 g (4.1 mmol) of benzyloxy-8-(2-ethoxy-2-hydroxyacetyl)4H-benzo[1,4]oxazin-3-one and 0.65 g (3.7 mmol) of 2-(3,5-dimethylphenyl)-1,1-dimethylethylamine. Yield: 1.1 g (51%, hydrochloride); melting point: 220° C.–222° C.

reactant | benzyloxy-8-(2-ethoxy-2-hydroxyacetyl)4H-benzo[1,4]oxazin-3-one | 4.1 mmol, 1.47 g | C(C1=CC=CC=C1)OC1OC2=C(NC1=O)C=CC=C2C(C(O)OCC)=O | C19H19NO6
reactant | 2-(3,5-dimethylphenyl)-1,1-dimethylethylamine | 3.7 mmol, 0.65 g | CC=1C=C(C=C(C1)C)CC(C)(C)N | C12H19N
reactant | hydrochloride | Cl | ClH
product | 6-benzyloxy-8-{2-[2-(3,5-dimethylphenyl)-1,1-dimethylethylamino]-1-hydroxyethyl}-4H-benzo[1,4]oxazin-3-one | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)C(CNC(CC1=CC(=CC(=C1)C)C)(C)C)O | C29H34N2O4
